US08334292B1
Step 5: Preparation of methyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate
Using the procedure of Example 1 Step 5, 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine was reacted with methyl chloroformate to provide the title compound at 83% yield. 1H NMR (CDCl3, 400 MHz) 8.10 (s, 1H), 7.35 (d, 2H), 6.92 (d, 2H), 5.16 (sb, 1H), 4.47 (d, 2H), 4.12-4.08 (m, 3H), 3.88-3.84 (m, 6H), 3.67 (s, 3H), 3.20-3.18 (m, 4H), 3.10-2.90 (m, 1H), 1.85-1.52 (m, 6H), 1.30-1.20 (m, 3H), 0.94 (d, 3H); MS (ESI) m/z: Calc: 495.3 (M+). Found. 496.3 (M+1).

reactant | 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1CC(C1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C25H35N5O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | methyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate | 83% yield | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CN(C1)C(=O)OC)C1=CC=C(C=C1)N1CCOCC1 | C27H37N5O4
